US07476666B2
Step 1: Dimethyl 4-benzyloxy-1-(2-bromoethyl)-1H-pyrazole-3,5-dicarboxylate
To a solution of dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate (1.0 g, 3.45 mmol) in anhydrous DMF (20 mL) were added Cs2CO3 (1.35 g, 4.13 mmol) and dibromoethane (2.27 g, 12.1 mmol). The reaction mixture was stirred at room temperature for 2 hours and then filtered. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography on silica gel using a 0-25% EtOAc/hexanes gradient elution. Collection and concentration of the appropriate fractions provided the title compound as a white solid. 1H NMR (400 MHz, d6-DMSO) δ 7.45-7.34 (m, 5H), 5.06 (s, 2H), 4.88 (t, J=6.4 Hz, 2H), 3.86-3.79 (m, 8H).

reactant | dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | 3.45 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)OC)C(=O)OC | C14H14N2O5
reactant | Cs2CO3 | 4.13 mmol, 1.35 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dibromoethane | 12.1 mmol, 2.27 g | BrC(C)Br | C2H4Br2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Dimethyl 4-benzyloxy-1-(2-bromoethyl)-1H-pyrazole-3,5-dicarboxylate | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)CCBr)C(=O)OC | C16H17BrN2O5
